* Developed passive network; wires contracted
* Vout = n4; logical fixture source/load preserved
Vsource n1 0 AC 1
Rsource n1 n2 1000
Rload n4 0 1000
C1 n2 n4 4.0000000000000007e-08
.ac dec 100 100 1000000
.end
